US08304418B2
Synthesis of 5-Amino-1-(3,5-dichloropyridyl)-3-isopropyl-1H-pyrazole-4-carbonitrile
A solution of (1-chloro-2-methylpropylidene)methane-1,1-dicarbonitrile (35.6 g, 230 mmole) in THF (875 mL) was treated with 3,5-dichloropyridylhydrazine (40.9 g, 230 mmole) followed by triethylamine (23 g, 230 mmole). The reaction was then heated to reflux for 18 hours. The reaction was then cooled to room temperature and partitioned between EtOAc (1 L) and 1M aqueous NaOH (500 mL). The aqueous layer was extracted with EtOAc (2×500 mL), and the combined organic layers were washed with 10% citric acid (500 mL), saturated aqueous NaHCO3 (750 mL). The organic layer was dried (MgSO4), filtered, and concentrated under reduced pressure to yield the desired product (56 g, 82% yield).

reactant | (1-chloro-2-methylpropylidene)methane-1,1-dicarbonitrile | 230 mmole, 35.6 g | ClC(C(C)C)=C(C#N)C#N | C7H7ClN2
reactant | 3,5-dichloropyridylhydrazine | 230 mmole, 40.9 g | ClC=1C(=NC=C(C1)Cl)NN | C5H5Cl2N3
reactant | triethylamine | 230 mmole, 23 g | C(C)N(CC)CC | C6H15N
solvent | THF | 875 mL | C1CCOC1 | C4H8O
product | 5-Amino-1-(3,5-dichloropyridyl)-3-isopropyl-1H-pyrazole-4-carbonitrile | 56 g, 82% yield | NC1=C(C(=NN1C1=NC=C(C=C1Cl)Cl)C(C)C)C#N | C12H11Cl2N5
